US07863302B2
6-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-2-methyl-1H-indole-3-carboxylic acid
A mixture of 6-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-2-methyl-1H-indole-3-carboxylic acid methyl ester (239 mg, 0.390 mmol), sodium hydroxide (5 M, 0.5 mL) and methanol (1 mL) is heated in a microwave reactor utilizing the lowest power setting at 125° C. for 20 minutes. The mixture is acidified with 1 N HCl and extracted with ether. The ether layers are washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue is purified on a via radial chromatography (2 mm plate, 3% MeOH—CH2Cl2) to yield the title compound (59 mg, 25%) as a white solid. ES/MS m/e 592.8 (M+1)

reactant | 6-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-2-methyl-1H-indole-3-carboxylic acid methyl ester | 0.390 mmol, 239 mg | COC(=O)C1=C(N(C2=CC(=CC=C12)C1=C(C=C(C=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)C(C)C)C | C34H34Cl2N2O4
reactant | sodium hydroxide | 5 M, 0.5 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 6-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-2-methyl-1H-indole-3-carboxylic acid | 59 mg, 25% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)C1=CC=C2C(=C(N(C2=C1)C(C)C)C)C(=O)O)C)C(C)C | C33H32Cl2N2O4
